US06265524B1
300 parts of diphenyl oxalate was charged into a reactor equipped with a stirrer and a cooling column and 4.65 parts of tetraphenyl phosphonium chloride was added thereto as a catalyst. The temperature inside the reactor was elevated to 255° C. under normal pressure and while removing carbon monoxide gas generated outside the system, decarbonylation reaction was carried out at 255° C. for 3 hours to obtain diphenyl carbonate (DPC selectivity: 99%, DPC yield 95%). To 200 parts of this diphenyl carbonate was added 400 parts of distilled water(pure water), and the mixture was heated to 90° C. and stirred for 1 hour. A heavy solution (diphenyl carbonate layer) was separated and dried at 50° C. under a reduced pressure for 24 hours to obtain diphenyl carbonate containing 1.8 ppm of hydrolyzable chlorine, to be used in an ester interchange reaction.

reactant | diphenyl oxalate | C(C(=O)OC1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C14H10O4
catalyst | tetraphenyl phosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | diphenyl carbonate | yield 95% | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
